US06072067
a. Preparation of 1,2,3,4-tetramethyl-5(2-chloroethyl)cyclopentadiene
A 1-liter three-necked flask, provided with a dropping funnel, condenser, mechanical stirrer and nitrogen inlet, was charged with 30.5 g of 1,2,3,4-tetramethylcyclopentadiene (0.25 mol), dissolved in 700 mL of ethoxyethane, and cooled to 2° C. Then 160 mL of n-butyllithium (1.6 M in hexane; 0.26 mol) were added dropwise in two hours, followed by 18 hours of stirring at room temperature with the aid of a mechanical stirrer. Then 36.0 g of 1-bromo-2-chloroethane (0.25 mol) were added all at once. The reaction mixture was stirred at room temperature for 10 days. GC analysis of a sample showed that the conversion of the tetramethylcyclopentadiene was 91%. One hundred ml of water were added to the reaction mixture, followed by separation of the water phase and the organic phase. The organic layer was washed once with 50 mL of saturated aqueous sodium chloride solution, dried with sodium sulphate, filtered and boiled down. The residue (43.9 g) proved to have the following composition according to gas chromatography (GC) analysis: apart from the starting materials, 1-bromo-2-chloroethane (9 wt %) and 1,2,3,4-tetramethylcyclopentadiene (9 wt %). Only non-geminally coupled product (84%) and geminally coupled product (16%) were found to be present.

reactant | 1,2,3,4-tetramethylcyclopentadiene | 0.25 mol, 30.5 g | CC1=C(C(=C(C1)C)C)C | C9H14
reactant | n-butyllithium | 0.26 mol, 1.6 M, 160 mL | C(CCC)[Li]
reactant | 1-bromo-2-chloroethane | 0.25 mol, 36.0 g | BrCCCl | C2H4BrCl
reactant | water | One hundred ml | O | H2O
solvent | ethoxyethane | 700 mL | C(C)OCC | C4H10O
product | 1,2,3,4-tetramethyl-5(2-chloroethyl)cyclopentadiene | CC1=C(C(=C(C1CCCl)C)C)C | C11H17Cl
